US06878728B1
(3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[[(4-aminophenyl)sulfonyl](isobutyl)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate (296)
To a stirred solution of (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-{isobutyl[(4-nitrophenyl)sulfonyl]amino}propylcarbamate (0.20 g, 0.29 mmol) in 3 mL of ethanol was added 64 mg of platinum (on activated carbon, 3% Pt). The mixture was stirred under an atmospheric pressure of hydrogen for 12 hours. The catalyst was filtered, and the solvent was removed under reduced pressure. The residue was purified on silica gel using ethyl acetate-hexanes (4:1) as eluent to provide 0.10 g (52%) of the title compound. 1H-NMR (DMSO-d6): δ 0.74 (3H,d), 0.81(3H,d), 1.19 (1H,m), 1.29(1H,m), 1.89 (1H, m), 2.34 (1H,t), 2.54-2.62 (2H,m), 2.71 (1H,m), 2.90 (2H,m), 3.22 (1H,d), 3.46 (1H,m), 3.52-3.59 (3H,m), 3.66 (1H,t) 3.83 (1H,dd), 4.80 (1H,q), 4.92 (1H,d,b), 4.99 (2H,s), 5.47 (1H,d), 5.94 (2H,s), 6.54 (2H,d), 6.81 (2H,d), 7.07(2H,d), 7.19 (1H,d), 7.28 (1H,d), 7.35 (5H,m). MS: 655 (M+).

reactant | (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-{isobutyl[(4-nitrophenyl)sulfonyl]amino}propylcarbamate | 0.29 mmol, 0.20 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]([C@@H](CN(S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])CC(C)C)O)NC(O[C@@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C34H41N3O10S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | platinum | 64 mg | [Pt] | Pt
product | (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[[(4-aminophenyl)sulfonyl](isobutyl)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate | 0.10 g, 52% | NC1=CC=C(C=C1)S(=O)(=O)N(C[C@H]([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(O[C@@H]1CO[C@H]2OCC[C@H]21)=O)O)CC(C)C | C34H43N3O8S
